US05849217
(1) Preparation of 2-{4-(2-octylindane-5-yl) phenyl}ethanol
2.74 g (10.0 mmol) of 2-octylindane-5-boronic acid, 2.0 g (10.0 mmol) of 2-(4-bromophenyl) ethanol, 0.38 g of tetrakis (triphenylphosphine) palladium, 15 ml of 2M-sodium carbonate solution, 15 ml of toluene and 10 ml of ethanol were heated at 80° C. for 6 hours under presence of nitrogen. After reactions had been completed, extraction with toluene was performed. Then, the extracted solution was dried with anhydrous sodium sulfate. The solvent was removed by filtration, and then refining was performed by re-crystallization (hexane/ethanol) so that 2.40 g of 2-{4-(2-octylindane-5-yl) phenyl}ethanol was obtained (yield 68%).

reactant | 2-octylindane-5-boronic acid | 10.0 mmol, 2.74 g | C(CCCCCCC)C1CC2=CC=C(C=C2C1)B(O)O | C17H27BO2
reactant | 2-(4-bromophenyl) ethanol | 10.0 mmol, 2.0 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis (triphenylphosphine) palladium | 0.38 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-{4-(2-octylindane-5-yl) phenyl}ethanol | yield 68% | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C1=CC=C(C=C1)CCO | C25H34O
